US04670193
4-Methylpentyl phosphonic acid
To a solution of 4-methylpentyl phosphonous acid (0.64 g, 4.2 mmole) in acetone (10 ml) and water (10 ml) was added a solution of sodium hydroxide (0.208 g, 0.005 mole) in water (10 ml) until a pH of about 7 was reached. A solution of KMnO4 (0.399 g, 2.52 mmole) in water (10 ml) was added slowly to the vigorously stirred solution of phosphonous acid at 20°-25° C. After the addition (5 minutes), the reaction mixture was stirred for 5 minutes at ambient temperature and acidified with concentrated HCl acid until a pH of 1 was reached. Saturated sodium bisulfite solution was added to the reaction mixture thereby resulting in formation of a precipitate.

reactant | 4-methylpentyl phosphonous acid | 4.2 mmole, 0.64 g | CC(CCCP(O)O)C | C6H15O2P
reactant | sodium hydroxide | 0.005 mole, 0.208 g | [OH-].[Na+]
reactant | KMnO4 | 2.52 mmole, 0.399 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | phosphonous acid | P(O)O | H3O2P
reactant | HCl | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-Methylpentyl phosphonic acid | CC(CCCP(O)(O)=O)C | C6H15O3P
